US08748462B2
Methyl 2-(benzyloxy)-5-(3-methoxy-3-oxoprop-1-enyl)isonicotinate (H6.2)
To NMP (1 mL) was added methyl acrylate (commercially available from Sigma-Aldrich, St. Louis, Mo., USA), tri-o-tolylphosphine (8.5 mg, 28 μmol) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA) and palladium diacetate (2.5 mg, 11 μmol) (commercially available from Sigma-Aldrich, St. Louis, Mo., USA). The solution was degassed three time with nitrogen. To this solution was then added a 1 mL NMP solution of methyl 2-(benzyloxy)-5-bromoisonicotinate (120 mg, 372 μmol). The reaction was stirred at 90° C. overnight and then purified by column chromatography (silica gel, 10% EtOAc/hexane) to give desired product H6.2 (50.2 mg, 41.4%). MS ESI (pos.) m/e: 328.1 (M+H)+.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 28 μmol, 8.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | methyl 2-(benzyloxy)-5-bromoisonicotinate | 372 μmol, 120 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C(=CN1)Br | C14H12BrNO3
catalyst | palladium diacetate | 11 μmol, 2.5 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | Methyl 2-(benzyloxy)-5-(3-methoxy-3-oxoprop-1-enyl)isonicotinate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C(=CN1)C=CC(=O)OC | C18H17NO5
